US05075502
A. 5-Acetamido-2,4,6-triiodoisophthaloyl chloride
5-Amino-2,4,6-triiodoisophthaloyl chloride (190 g,0.32 g-mole) prepared as in Example 1 is dissolved in 475 ml of N,N-dimethylacetamide (DMAc) (dried over molecular sieves), and the solution is stirred and cooled to 0°-3° C. Acetyl chloride (75.1 g, 68 ml, 0.96 g-mole) is added dropwise over a period of 100 minutes, keeping the temperature between 0° C. and 3° C. The ice bath is removed and the solution is stirred overnight at room temperature (20°-25° C.). An additional charge of acetyl chloride (8.5 g, 0.11 g-mole) is added, and the mixture is stirred overnight (23 hours). The product (a creamy white sold) precipitates during this time. The mixture is cooled to 0°-5° C. and filtered while cold. After rinsing with three 100-ml portions of hexane on the funnel, the solution is stirred with three 200-ml portions of cold hexane for 10 minutes each time, collected by suction filtration, and dried in a vacuum desiccator (183 g, 90% yield). The product shows one major spot by TLC analysis.

reactant | 5-Amino-2,4,6-triiodoisophthaloyl chloride | 190 g | NC=1C(=C(C(=C(C(=O)Cl)C1I)I)C(=O)Cl)I | C8H2Cl2I3NO2
reactant | Acetyl chloride | 68 ml, 75.1 g | C(C)(=O)Cl | C2H3ClO
solvent | N,N-dimethylacetamide | 475 ml | CN(C(C)=O)C | C4H9NO
product | 5-Acetamido-2,4,6-triiodoisophthaloyl chloride | 90% yield | C(C)(=O)NC=1C(=C(C(=C(C(=O)Cl)C1I)I)C(=O)Cl)I | C10H4Cl2I3NO3
